US05688798
A solution of 3.81 g of crude tert.-butyl 6-(trifluoromethanesulphonyloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylate in 40 ml of dimethoxyethane was treated under argon with 2.01 g (0.0105 mol) of 3,5-dichlorophenylboric acid and 13.5 ml (0.027 mol) of an aqueous 2N sodium hydrogen carbonate solution. The mixture was saturated with argon, 0.578 g (0.00050 mol) of tetrakis-(triphenylphosphine)-palladium was added thereto and the mixture was boiled at reflux for 20 hours. The mixture was cooled, poured into 120 ml of an aqueous 2N sodium hydroxide solution and extracted with ethyl acetate. The residue was chromatographed over silica gel with cyclohexane/ethyl acetate 9:1 as the eluent. 3.42 g (90%) of tert.-butyl 6-(3,5-dichlorophenyl)-3,4-dihydro-1H-isoquinoline-2-carboxylate were obtained as a pale yellow dense oil.

reactant | tert.-butyl 6-(trifluoromethanesulphonyloxy)-3,4-dihydro-1H-isoquinoline-2-carboxylate | 3.81 g | FC(S(=O)(=O)OC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)(F)F | C15H18F3NO5S
reactant | 3,5-dichlorophenylboric acid | 0.0105 mol, 2.01 g | ClC=1C=C(C=C(C1)Cl)OB(O)O | C6H5BCl2O3
reactant | sodium hydrogen carbonate | 2N | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
catalyst | tetrakis-(triphenylphosphine)-palladium | 0.00050 mol, 0.578 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert.-butyl 6-(3,5-dichlorophenyl)-3,4-dihydro-1H-isoquinoline-2-carboxylate | 3.42 g, 90% | ClC=1C=C(C=C(C1)Cl)C=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C20H21Cl2NO2
